US07288567B2
Step 2: N-tert-Butyloxycarbonyl-3-fluoro-2-amino aniline
To a solution of the N-tert-Butyloxycarbonyl-3-fluoro-2-nitro aniline (950 mg, 2.5 mmol) in MeOH was added catalytic amount of Raney Nickel in water, hydrogen was applied at 40 psi and the mixture was stirred overnight. The mixture was filtered over Celite and the solvent was evaporated to give the desired product in 66% yield (550 mg). MS (ESI)=226 (MH+)

reactant | N-tert-Butyloxycarbonyl-3-fluoro-2-nitro aniline | 2.5 mmol, 950 mg | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)F)[N+](=O)[O-] | C11H13FN2O4
solvent | MeOH | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
solvent | hydrogen | [H][H] | H2
product | N-tert-Butyloxycarbonyl-3-fluoro-2-amino aniline | 66% yield | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)F)N | C11H15FN2O2
